*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X6T(-55to105[deg])/1.00e+00[uF]/4[V]
* Murata P/N :GRM152D80G105ME15
* Property : C = 1.00e+00[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM152D80G105ME15 Port1 Port2
C01 Port1 N01 8.41e-07
R01 Port1 N01 5.00e+07
L02 N01 N02 1.59e-10
R03 N02 N03 1.15e-02
C04 N03 N04 3.95e-05
R04 N03 N04 1.04e+02
C05 N04 N05 5.56e-05
R05 N04 N05 1.05e+01
C06 N05 N06 1.06e-04
R06 N05 N06 1.15e+00
C07 N06 N07 7.92e-05
R07 N06 N07 3.62e-01
C08 N07 N08 7.25e-05
R08 N07 N08 5.80e-02
C09 N08 N09 4.23e-05
R09 N08 N09 1.19e-02
L10 N09 N10 3.22e-11
R10 N09 N10 1.58e-01
L11 N10 N11 9.33e-11
R11 N10 N11 5.25e-02
C12 N11 N12 4.39e-07
L12 N11 N12 6.08e-11
R12 N11 N12 9.03e-03
C13 N12 N13 1.22e-06
L13 N12 N13 6.86e-12
R13 N12 N13 2.26e-03
C14 N13 N14 1.73e-09
L14 N13 N14 2.09e-12
R14 N13 N14 4.15e-02
C15 N14 Port2 8.52e-12
L15 N14 Port2 3.14e-11
R15 N14 Port2 1.02e+01
.ENDS GRM152D80G105ME15
